US07608639B2
4-Chloro-2-(2-fluoro-phenoxy)-phenol
A solution of 4-chloro-2-(2-fluoro-phenoxy)-benzaldehyde (0.8 g, 3.2 mmol) in chloroform (10 mL) is treated with m-CPBA (2.75 g, 16 mmol). The reaction is heated to reflux and stirred for about 2 hr. The reaction is cooled to room temperature and quenched with 10% aqueous NaHSO4. The aqueous is extracted with diethyl ether. The organic is washed with brine, dried over sodium sulfate, and the solvent is removed. The crude is diluted in methanol (20 mL) and treated with potassium carbonate (1.32 g, 9.6 mmol). The reaction stirred for 30 minutes at room temperature. The reaction is filtered and the solvent removed. The crude is purified by silica gel column chromatography using 4:1 hexanes:acetone to elute the pure product. The solvent is removed to afford about 0.64 g (84%) of product. 1H NMR (400 MHz, CDCl3). MS (ES−) m/z mass calcd for C12H8ClFO2 238, found 237 (M−1, 100%).

reactant | 4-chloro-2-(2-fluoro-phenoxy)-benzaldehyde | 3.2 mmol, 0.8 g | ClC1=CC(=C(C=O)C=C1)OC1=C(C=CC=C1)F | C13H8ClFO2
reactant | m-CPBA | 16 mmol, 2.75 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | potassium carbonate | 9.6 mmol, 1.32 g | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Chloro-2-(2-fluoro-phenoxy)-phenol | about 0.64 g, 84% | ClC1=CC(=C(C=C1)O)OC1=C(C=CC=C1)F | C12H8ClFO2
